US04148796
To a stirred solution of 5.0 g of β-(2-methyl-3-indolyl)propionic acid and 2.5 g of triethylamine in 100 ml of chloroform was added dropwise 2.7 g of ethyl chloroformate at a temperature below 0° C. After the addition was complete, stirring was continued for additional 15 minutes and thereto was added 4.7 g of 4-benzyl-4-hydroxypiperidine in several portions. The reaction mixture was stirred for 4 hours at room temperature and allowed to stand overnight. The reaction product was washed thoroughly with water and concentrated to dryness. The residue was recrystallized from ethanol to give 1-[β-(2-methyl-3-indolyl)propionyl]-4-benzyl-4-hydroxypiperidine, melting at 117°-119° C.

reactant | β-(2-methyl-3-indolyl)propionic acid | 5.0 g | CC=1NC2=CC=CC=C2C1CCC(=O)O | C12H13NO2
reactant | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.7 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-benzyl-4-hydroxypiperidine | 4.7 g | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[β-(2-methyl-3-indolyl)propionyl]-4-benzyl-4-hydroxypiperidine | CC=1NC2=CC=CC=C2C1CCC(=O)N1CCC(CC1)(O)CC1=CC=CC=C1 | C24H28N2O2
